US09353113B2
tert-butyl {4-[2-(benzyloxy)-2-oxoethyl]phenoxy}acetate
Potassium carbonate (1.38 g) and tert-butyl bromoacetate (1.07 g) were added to a dehydrated N,N-dimethylformamide (17 mL) solution of benzyl (4-hydroxyphenyl)acetate (1.21 g) at room temperature, followed by stirring for 1 hour. Thereafter, water was added to the reaction mixture on an ice bath, and extraction was performed with hexane:ethyl acetate=2:1. The resulting organic phase was washed with an aqueous saturated sodium chloride solution and dried with anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→8:2) to obtain the title compound (1.75 g) having the following physical property values.

reactant | Potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 1.07 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | N,N-dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
reactant | benzyl (4-hydroxyphenyl)acetate | 1.21 g | OC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O3
solvent | water | O | H2O
product | tert-butyl {4-[2-(benzyloxy)-2-oxoethyl]phenoxy}acetate | 1.75 g | C(C1=CC=CC=C1)OC(CC1=CC=C(OCC(=O)OC(C)(C)C)C=C1)=O | C21H24O5
